US07425568B2
3-(3-Fluorophenyl)-7-hydroxychromen-4-one (160 mg) was dissolved in ethanol (40 ml) and 10% palladium on carbon (400 mg) was added. The reaction mixture was hydrogenated for 6 hours at normal pressure and room temperature. It was then filtered through Celite and washed with ethanol. The solvent was evaporated under reduced pressure to give 3-(3-fluorophenyl)chroman-7-ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.19 (br s, 1H), 7.38 (m, 1H), 7.17-7.21 (m, 2H), 7.08 (m, 1H), 6.88 (d, 1H, J 8.2 Hz), 6.30 (dd, 1H, J 8.2, 2.4 Hz), 6.20 (d, 1H, J 2.4 Hz), 4.22 (dd, 1H, J 10.3, 3.6 Hz), 4.02 (t, 1H, 10.3 Hz), 3.20 (m, 1H), 2.90 (m, 2H).

reactant | 3-(3-Fluorophenyl)-7-hydroxychromen-4-one | 160 mg | FC=1C=C(C=CC1)C1=COC2=CC(=CC=C2C1=O)O | C15H9FO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 3-(3-fluorophenyl)chroman-7-ol | FC=1C=C(C=CC1)C1COC2=CC(=CC=C2C1)O | C15H13FO2
